US04258187
A solution of 10.0 g (0.285 mole) of 1-(2-benzoyl-4-chlorophenyl)-3-phenylurea in 50 ml ethanol was refluxed for 18 hr, and then cooled. The solid that formed was collected on a filter and washed with ethanol to give 9.46 g (88%) of 6-chloro-4-ethoxy-3,4-dihydro-3,4-diphenyl-2(1H)-quinazolinone as colorless crystals: mp 209°-211°. The 1H nmr spectrum shows the presence of an ethyl group in addition to aromatic hydrogens.

reactant | 1-(2-benzoyl-4-chlorophenyl)-3-phenylurea | 0.285 mole, 10.0 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(=O)NC1=CC=CC=C1 | C20H15ClN2O2
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 6-chloro-4-ethoxy-3,4-dihydro-3,4-diphenyl-2(1H)-quinazolinone | 9.46 g, 88% | ClC=1C=C2C(N(C(NC2=CC1)=O)C1=CC=CC=C1)(C1=CC=CC=C1)OCC | C22H19ClN2O2
